US06555682B1
2,4,6-tris[(7-(Diphenylamino)-9,9-diprop-2 -enylfluoren-2-yl]-1,3,5-triazine (AF-457)
To a solution of 2-bromo-7-(diphenylamino)-9,9-diprop-2 -enylfluorene (22.16 g, 0.045 mol), in THF (200 mL), cooled in a dry ice-acetone bath, a solution of n-butyl lithium in hexanes (1.6M, 30 mL, 0.048 mol), was added by syringe over 5 minutes. After 25 minutes, over a 30 minute period, a solution of cyanuric fluoride (2.025 g, 0.015 mol), in THF (100 mL) was added to result in a greenish fluorescent solution, which turned orange at the end of additon. The mixture was allowed to warm up slowly to room temperature, diluted with toluene and water, and the organic phase was dried and concentrated. The residue was chromatographed over alumina (eluted with 1:3 toluene-heptane), rechromatographed over silica gel (eluted with 1:3 toluene-heptane), and then crystallized from 1:3 toluene-heptane. The desired product was obtained as a bright yellow solids, 11.84 g, 60% yield, m.p. 235-237° C. Recrystallization from 2:1 heptane-toluene raised its m.p. to 236-238° C. Mass Spec: m/z 1314 (M+). Anal. Calcd. for C96H78N6: C, 87.64%; H, 5.90%: N, 6.3%. Found: C, 87.59%; H, 6.06%; N, 6.15%.

reactant | 2-bromo-7-(diphenylamino)-9,9-diprop-2 -enylfluorene | 0.045 mol, 22.16 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)(CC=C)CC=C | C31H26BrN
reactant | n-butyl lithium | C(CCC)[Li]
reactant | cyanuric fluoride | 0.015 mol, 2.025 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (7-(Diphenylamino)-9,9-diprop-2 -enylfluoren-2-yl]-1,3,5-triazine | 60% yield | C1(=CC=CC=C1)N(C1=CC=C2C=3C=CC(=CC3C(C2=C1)(CC=C)CC=C)C1=NC=NC=N1)C1=CC=CC=C1 | C34H28N4
